US08685969B2
1. Benzyl 3-(1-(6-bromo-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate
A mixture of 6-bromo-1H-indole (2.82 g, 14.41 mmol) and (E)-benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate (3.0 g, 9.61 mmol) was dissolved in THF (50 mL) and NMP (0.5 mL). The THF was removed under vacuum, and the residue was heated at 120° C. for 16 hr and then at 125° C. for 6 hr. Upon cooling to room temperature, the mixture was dissolved in THF (50 mL). The resulting solution was diluted with ethyl acetate (250 mL), washed with water (3×80 mL) and brine (60 mL), and dried over anhydrous MgSO4. The desired product (3.00 g, 5.90 mmol, 61.4% yield) was isolated as a beige solid by ISCO (300 g silica gel, 25-60 ethyl acetate/hexane).

reactant | 6-bromo-1H-indole | 14.41 mmol, 2.82 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | (E)-benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate | 9.61 mmol, 3.0 g | CC1=C(C=CC=C1\C=C\[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C17H16N2O4
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | Benzyl 3-(1-(6-bromo-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate | 5.90 mmol, 3.00 g, 61.4% yield | BrC1=CC=C2C(=CNC2=C1)C(C[N+](=O)[O-])C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C25H22BrN3O4
